### PR TITLE
Minimum and maximum are associative

### PR DESCRIPTION
**Pull request by lowasser**
If anyone has any ideas on how to do this without a ton of casework, I'd love to hear it.

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Associativity should follow from uniqueness of greatest binary lower bounds. I.e., this is a property of binary meets/joins in arbitrary posets. It's probably easier to start there, if it hasn't been formalized already.

**Comment by fredrik-bakke** [comment]
It hasn't been formalized already, but an argument sketch that should be straightforward given the proper infrastructure is as follows:

1. The left associated twice iterated minimum is the greatest lower bound of the appropriate family on the three-element set.
2. The right associated twice iterated minimum is the greatest lower bound of the same family on the three-element set.
3. By essential uniqueness, the two elements are similar, already in an arbitrary preorder.
4. By antisymmetry in a poset, the two elements are equal.

**Comment by EgbertRijke** [comment]
I agree with Fredrik, this shouldn't be formalized by case analysis, but it should be formalized at the level of meets and joins in meet-semilattices and join-semilattices.

**Comment by fredrik-bakke** [comment]
> I think it already is, e.g. [here](https://unimath.github.io/agda-unimath/order-theory.meet-semilattices.html#the-meet-operation-of-order-theoretic-meet-semilattices-is-associative). I will try to reuse that.

Excellent!

**Comment by lowasser** [comment]
All right, we should be good to go.

File: src/order-theory/decidable-total-orders.lagda.md [hunk 1]
```diff
@@ -350,3 +279,194 @@ module _
...
+```agda
+  commutative-min-Decidable-Total-Order :
+    (x y : type-Decidable-Total-Order T) →
+    min-Decidable-Total-Order T x y ＝ min-Decidable-Total-Order T y x
+  commutative-min-Decidable-Total-Order =
+    commutative-meet-Order-Theoretic-Meet-Semilattice
+      ( order-theoretic-meet-semilattice-Decidable-Total-Order)
+```
+
+### `max` is commutative
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:351]:
```suggestion
### The binary maximum operation is commutative
```

File: src/order-theory/decidable-total-orders.lagda.md [hunk 2]
```diff
@@ -350,3 +279,194 @@ module _
...
+```agda
+  commutative-max-Decidable-Total-Order :
+    (x y : type-Decidable-Total-Order T) →
+    max-Decidable-Total-Order T x y ＝ max-Decidable-Total-Order T y x
+  commutative-max-Decidable-Total-Order =
+    commutative-join-Order-Theoretic-Join-Semilattice
+      ( order-theoretic-join-semilattice-Decidable-Total-Order)
+```
+
+### `min` is idempotent
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:362]:
```suggestion
### The binary minimum operation is idempotent
```

File: src/order-theory/decidable-total-orders.lagda.md [hunk 3]
```diff
@@ -350,3 +279,194 @@ module _
...
+```agda
+  idempotent-min-Decidable-Total-Order :
+    (x : type-Decidable-Total-Order T) →
+    min-Decidable-Total-Order T x x ＝ x
+  idempotent-min-Decidable-Total-Order =
+    idempotent-meet-Order-Theoretic-Meet-Semilattice
+      ( order-theoretic-meet-semilattice-Decidable-Total-Order)
+```
+
+### `max` is idempotent
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:373]:
```suggestion
### The binary maximum operation is idempotent
```

File: src/order-theory/decidable-total-orders.lagda.md [hunk 4]
```diff
@@ -350,3 +279,194 @@ module _
...
+```agda
+  idempotent-max-Decidable-Total-Order :
+    (x : type-Decidable-Total-Order T) →
+    max-Decidable-Total-Order T x x ＝ x
+  idempotent-max-Decidable-Total-Order =
+    idempotent-join-Order-Theoretic-Join-Semilattice
+      ( order-theoretic-join-semilattice-Decidable-Total-Order)
+```
+
+### The minimum of two values is a lower bound
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:384]: Didn't you already formalize that binary minima are binary greatest lower bounds further up in this documentation? At the least, this part should be grouped with that.

File: src/order-theory/decidable-total-orders.lagda.md [hunk 5]
```diff
@@ -350,3 +279,194 @@ module _
...
+
+  leq-right-max-Decidable-Total-Order :
+    leq-Decidable-Total-Order T y (max-Decidable-Total-Order T x y)
+  leq-right-max-Decidable-Total-Order =
+    leq-right-is-least-binary-upper-bound-Poset
+      ( poset-Decidable-Total-Order T)
+      ( max-is-least-binary-upper-bound-Decidable-Total-Order T x y)
+```
+
+### If x is less than or equal to y, the minimum of x and y is x
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:426]:
```suggestion
### If `x` is less than or equal to `y`, the minimum of `x` and `y` is `x`
```

You can also consider the following, although it is unconventional currently

```suggestion
### If $x$ is less than or equal to $y$, the minimum of $x$ and $y$ is $x$
```

File: src/order-theory/decidable-total-orders.lagda.md [hunk 6]
```diff
@@ -350,3 +279,194 @@ module _
...
+    leq-Decidable-Total-Order T x y → min-Decidable-Total-Order T x y ＝ x
+  left-leq-right-min-Decidable-Total-Order H
+    with is-leq-or-strict-greater-Decidable-Total-Order T x y
+  ... | inl x≤y = refl
+  ... | inr y<x =
+    ex-falso
+      ( pr1 y<x (antisymmetric-leq-Decidable-Total-Order T y x (pr2 y<x) H))
+```
+
+### If y is less than or equal to x, the minimum of x and y is y
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:439]: Same here, use ` or $

File: src/order-theory/decidable-total-orders.lagda.md [hunk 7]
```diff
@@ -350,3 +279,194 @@ module _
...
+```agda
+  right-leq-left-min-Decidable-Total-Order :
+    leq-Decidable-Total-Order T y x → min-Decidable-Total-Order T x y ＝ y
+  right-leq-left-min-Decidable-Total-Order H
+    with is-leq-or-strict-greater-Decidable-Total-Order T x y
+  ... | inl x≤y = antisymmetric-leq-Decidable-Total-Order T x y x≤y H
+  ... | inr y<x = refl
+```
+
+### If x is less than or equal to y, the maximum of x and y is y
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:450]: Use `or $

File: src/order-theory/decidable-total-orders.lagda.md [hunk 8]
```diff
@@ -350,3 +279,194 @@ module _
...
+    leq-Decidable-Total-Order T x y → max-Decidable-Total-Order T x y ＝ y
+  left-leq-right-max-Decidable-Total-Order H
+    with is-leq-or-strict-greater-Decidable-Total-Order T x y
+  ... | inl x≤y = refl
+  ... | inr y<x =
+    ex-falso
+      ( pr1 y<x (antisymmetric-leq-Decidable-Total-Order T y x (pr2 y<x) H))
+```
+
+### If y is less than or equal to x, the maximum of x and y is x
```
Comment (fredrik-bakke) [inline src/order-theory/decidable-total-orders.lagda.md:463]: Use `or $

File: src/order-theory/greatest-lower-bounds-posets.lagda.md [hunk 9]
```diff
@@ -121,6 +121,27 @@ module _
       ( is-binary-lower-bound-is-greatest-binary-lower-bound-Poset H)
 ```
 
+### The greatest lower bound of a and b is the greatest lower bound of b and a
```
Comment (fredrik-bakke) [inline src/order-theory/greatest-lower-bounds-posets.lagda.md:124]: Use `or $

File: src/order-theory/least-upper-bounds-posets.lagda.md [hunk 10]
```diff
@@ -124,6 +124,27 @@ module _
       ( is-binary-upper-bound-is-least-binary-upper-bound-Poset H)
 ```
 
+### The least upper bound of a and b is the least upper bound of b and a
```
Comment (fredrik-bakke) [inline src/order-theory/least-upper-bounds-posets.lagda.md:127]: Use `or $

**Comment by fredrik-bakke** [comment]
Great work! Merging now
